US07122545B2
To a suspension of 0.04 g 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride in 3.4 ml tetrahydrofurane were added at 0–4° C. 0.07 ml N-ethyldiisopropylamine and 0.011 g ethylchloroformate. The mixture was refluxed for 17 hours, silicagel was added and the solvent was distilled off. The residue was transferred to a column prefilled with silicagel and was chromatographed with dichloromethane/methanol 96:4 to yield 0.028 g (62%) 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid ethyl ester as yellow solid; MS (ISP): m/e=458 (M+H+).

reactant | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride | 0.04 g | Cl.COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(CCNCC1)N2)N2CCOCC2
reactant | N-ethyldiisopropylamine | 0.07 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethylchloroformate | 0.011 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | tetrahydrofurane | 3.4 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid ethyl ester | 0.028 g, 62% | C(C)OC(=O)N1CCC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C22H27N5O4S
